US08912180B2
To a mixture of 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-[(3S)-pyrrolidin-3-yl]pyrimidin-2-amine dihydrochloride (75 mg) and N,N-dimethylformamide (1.5 mL) were added 2-(dimethylamino)ethyl bromide (26 mg) and potassium carbonate (85 mg), and the mixture was stirred at room temperature overnight. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and then the residue was purified by amino silica gel column chromatography (hexane:ethyl acetate=50:50-0:100, and subsequently chloroform:methanol=100:0-80:20). Desired fractions are combined and concentrated under reduced pressure. The residue was dissolved in 1,4-dioxane (0.5 mL) and a 4 M solution (80 μL) of hydrogen chloride in 1,4-dioxane was added thereto. Diisopropyl ether (10 mL) was further added thereto. The resulting powder was collected by filtration, washed with diisopropyl ether, and dried under reduced pressure to obtain 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-N-{(3S)-1-[2-(dimethylamino)ethyl]pyrrolidin-3-yl}-6-morpholin-4-ylpyrimidin-2-amine dihydrochloride (10 mg) as a white powder.

reactant | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-[(3S)-pyrrolidin-3-yl]pyrimidin-2-amine dihydrochloride | 75 mg | Cl.Cl.FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)N[C@@H]1CNCC1)C=CC=C2)F
reactant | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
reactant | 2-(dimethylamino)ethyl bromide | 26 mg | CN(CCBr)C | C4H10BrN
reactant | potassium carbonate | 85 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-N-{(3S)-1-[2-(dimethylamino)ethyl]pyrrolidin-3-yl}-6-morpholin-4-ylpyrimidin-2-amine dihydrochloride | 10 mg | Cl.Cl.FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)N[C@@H]1CN(CC1)CCN(C)C)C=CC=C2)F | InChI=1S/C24H32F2N8O.2ClH/c1-31(2)9-10-32-8-7-17(16-32)27-24-29-20(33-11-13-35-14-12-33)15-21(30-24)34-19-6-4-3-5-18(19)28-23(34)22(25)26;;/h3-6,15,17,22H,7-14,16H2,1-2H3,(H,27,29,30);2*1H/t17-;;/m0../s1
